US08202856B2
Step 1: 1H-benzo[d]imidazole-5-carbonitrile
3,4-Diaminobenzonitrile (1.0 g; 7.5 mmol) was dissolved in formic acid (3 mL) and heated at 100° C. for 1.5 hours. The mixture was cooled, neutralised with 10% sodium hydroxide and the resulting precipitate isolated by filtration and dried in vacuo to yield the title compound as a brown solid (890 mg; 82%). 1H NMR (DMSO-d6) δ 8.50 (1H, s), 8.19 (1H, s), 7.79 (1H, d, J=8.3 Hz), 7.62 (1H, dd, J=8.3, 1.54 Hz). LC/MS (Method C): 144 (M+H)'. HPLC (Method F) Rt=2.14 min (Purity: 99.4%).

reactant | 3,4-Diaminobenzonitrile | 7.5 mmol, 1.0 g | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formic acid | 3 mL | C(=O)O | CH2O2
product | 1H-benzo[d]imidazole-5-carbonitrile | 890 mg, 82% | N1C=NC2=C1C=CC(=C2)C#N | C8H5N3
